US09278936B2
Amorphous 1-(3-tert-butyl-1-p-tolyl-1H-pyrazol-5-yl)-3-(5-fluoro-2-(1-(2-hydroxyethyl)-1H-indazol-5-yloxy)benzyl)urea (4.00 g, 7.19 mmol, 1.0 equivalent) was added to a round bottom flask that had been flame dried under a nitrogen atmosphere. THF (50 mL) was added and the mixture was stirred at ambient temperature until the material was dissolved. HCl (4 M in dioxane; 6.40 mL; 25.6 mmol, 3.6 equivalents) was added dropwise with rapid stirring. The mixture was stirred overnight at ambient temperature. The resulting solids were isolated by vacuum filtration and washed with MTBE and then with ether. The solids were dried under vacuum at 50° C. overnight yielding 3.82 g 1-(3-tert-butyl-1-p-tolyl-1H-pyrazol-5-yl)-3-(5-fluoro-2-(1-(2-hydroxyethyl)-1H-indazol-5-yloxy)benzyl)urea hydrochloride Form A (6.45 mmol, 90% theoretical yield). Methods used to characterize this material are described in Examples 1-C and 1-D.

reactant | 1-(3-tert-butyl-1-p-tolyl-1H-pyrazol-5-yl)-3-(5-fluoro-2-(1-(2-hydroxyethyl)-1H-indazol-5-yloxy)benzyl)urea | 7.19 mmol, 4.00 g, 1.0 equivalent | C(C)(C)(C)C1=NN(C(=C1)NC(=O)NCC1=C(C=CC(=C1)F)OC=1C=C2C=NN(C2=CC1)CCO)C1=CC=C(C=C1)C | C31H33FN6O3
reactant | HCl | 25.6 mmol, 4 M, 6.40 mL, 3.6 equivalents | Cl | ClH
product | 1-(3-tert-butyl-1-p-tolyl-1H-pyrazol-5-yl)-3-(5-fluoro-2-(1-(2-hydroxyethyl)-1H-indazol-5-yloxy)benzyl)urea hydrochloride | 3.82 g | Cl.C(C)(C)(C)C1=NN(C(=C1)NC(=O)NCC1=C(C=CC(=C1)F)OC=1C=C2C=NN(C2=CC1)CCO)C1=CC=C(C=C1)C | InChI=1S/C31H33FN6O3.ClH/c1-20-5-8-24(9-6-20)38-29(17-28(36-38)31(2,3)4)35-30(40)33-18-22-15-23(32)7-12-27(22)41-25-10-11-26-21(16-25)19-34-37(26)13-14-39;/h5-12,15-17,19,39H,13-14,18H2,1-4H3,(H2,33,35,40);1H
